US07776869B2
A 100 mL round bottom flask was charged with palladium(bisbenzonitrile)dichloride (0.23 g, 0.61 mmol), trit-butylphosphonium tetrafluoroborate (0.35 g, 1.2 mmol) and copper (I) iodide (0.11 g, 0.61 mmol) under argon. 20 mL dioxane was added, followed by diisopropylethylamine (2.6 mL, 18 mmol), 5-bromo-N-methylpyrimidin-2-amine (2.3 g, 12 mmol), and trimethylsilyl acetylene (3.4 mL, 24 mmol). The reaction was allowed to stir overnight. The cloudy brown mixture was diluted with EtOAc and filtered through a pad of silica gel and concentrated in vacuo to give a brown solid. This was further purified by silica gel chromatography, eluting with 0-50% EtOAc/dichloromethane to give N-methyl-5-(2-(trimethylsilyl)ethynyl)pyrimidin-2-amine as a yellow solid. MS m/z=206 [M+H]+. Calc'd for C10H15N3Si: 205.

reactant | trit-butylphosphonium tetrafluoroborate | 1.2 mmol, 0.35 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | diisopropylethylamine | 18 mmol, 2.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-bromo-N-methylpyrimidin-2-amine | 12 mmol, 2.3 g | BrC=1C=NC(=NC1)NC | C5H6BrN3
reactant | trimethylsilyl acetylene | 24 mmol, 3.4 mL | C[Si](C)(C)C#C | C5H10Si
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper (I) iodide | 0.61 mmol, 0.11 g | [Cu]I
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-methyl-5-(2-(trimethylsilyl)ethynyl)pyrimidin-2-amine | CNC1=NC=C(C=N1)C#C[Si](C)(C)C | C10H15N3Si
